US03956502
Bis (cyanoethyl) bis (2-hydroxy decyl) tetraethylene pentamine
The oily reaction products from 2 moles of epoxy decane and 1 mole of tetraethylene pentamine (52.7 gms, 0.1 mole) is heated at 70°C as in the preceding example with 0.2 moles (10.6 gms) of acrylonitrile until refluxing ceases and for one hour additional. The product is a thick oil with cyano group present and decreased secondary amine shown by infrared examination.

reactant | epoxy decane | 2 moles | O1CC1CCCCCCCC | C10H20O
reactant | tetraethylene pentamine | 1 mole, 52.7 gms | NCCNCCNCCNCCN | C8H23N5
reactant | acrylonitrile | 0.2 moles, 10.6 gms | C(C=C)#N | C3H3N
product | Bis (cyanoethyl) bis (2-hydroxy decyl) tetraethylene pentamine | C(#N)CCN(CCN(CCNCCN(CCN)CC(CCCCCCCC)O)CC(CCCCCCCC)O)CCC#N | C34H69N7O2
